US09193720B2
A mixture of (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (0.0443 g, 0.097 mmol), (4-((3-fluorobenzyl)oxy)phenyl)boronic acid (0.036 g, 0.146 mmol) and 2M Na2CO3 (0.122 ml, 0.243 mmol) in DMF 92 mL) was degassed for 10 min. Then, Pd(Ph3P)4 (0.011 g, 9.73 μmol) was added, degassed for 5 min and placed in a oil bath pre-heated to 110 C. After 2 h, cooled and purified by pre-HPLC to afford (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((3-fluorobenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.0361 g, 0.063 mmol, 64.3% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.39 (dt, J=5.8, 7.9 Hz, 1H), 7.24-7.27 (m, 1H), 7.22 (dd, J=2.1, 9.5 Hz, 1H), 7.17-7.20 (m, 1H), 7.02-7.10 (m, 4H), 6.03 (br. s., 1H), 5.12-5.20 (m, 2H), 4.23-4.31 (m, 1H), 4.19 (qd, J=7.1, 10.7 Hz, 1H), 3.06-3.28 (m, 1H), 2.85 (br. s., 1H), 2.65 (br. s., 3H), 2.26 (br. s., 3H), 1.96-2.11 (m, 1H), 1.27 (t, J=7.1 Hz, 4H), 1.20 (s, 9H), 0.90 (br.s., 3H), 0.66 (br. s., 3H). 5H of piperidine were not resolved. LCMS (M+H)=577.4.

reactant | (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.097 mmol, 0.0443 g | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C | C22H35BrN2O3
reactant | (4-((3-fluorobenzyl)oxy)phenyl)boronic acid | 0.146 mmol, 0.036 g | FC=1C=C(COC2=CC=C(C=C2)B(O)O)C=CC1 | C13H12BFO3
reactant | Na2CO3 | 0.243 mmol, 2M, 0.122 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 92 mL | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)4 | 9.73 μmol, 0.011 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((3-fluorobenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.063 mmol, 0.0361 g, 64.3% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)C)C | C35H45FN2O4
